US06689922B1
e) 4-Bromomethyl-1-(tert-butyldimethylsilanyloxy)-2-(tert-butyldimethylsilanyloxymethyl)benzene
In a manner similar to Example 3(b), by reacting 4.2 ml (9.4 mmol) of trioctylphosphine, 3.1 g (9.4 mmol) of carbon tetrabromide with 1.7 g (4.3 mmol) of [4-(tert-butyldimethylsilanyloxy)-3-(tert-butyldimethylsilanyloxymethyl)phenyl]methanol in 30 ml of ethyl ether, after purification on a silica column (AcOEt 10-Heptane 90), a yellow oil (m=1.7 g; Y=86%) is obtained.

reactant | trioctylphosphine | 9.4 mmol, 4.2 ml | C(CCCCCCC)P(CCCCCCCC)CCCCCCCC | C24H51P
reactant | carbon tetrabromide | 9.4 mmol, 3.1 g | C(Br)(Br)(Br)Br | CBr4
reactant | [4-(tert-butyldimethylsilanyloxy)-3-(tert-butyldimethylsilanyloxymethyl)phenyl]methanol | 4.3 mmol, 1.7 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)CO)CO[Si](C)(C)C(C)(C)C | C20H38O3Si2
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | 4-Bromomethyl-1-(tert-butyldimethylsilanyloxy)-2-(tert-butyldimethylsilanyloxymethyl)benzene | BrCC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C | C20H37BrO2Si2
